US04230703
A mixture of 5,6-dihydro-2-bromo-6,11-dioxodibenz[b,e]azepine (151 g), cuprous cyanide (49 g) and dimethylformamide (1.1 liters) was heated under refluxing for 8.5 hours. Then, the reaction mixture was cooled, and poured into a solution containing ferric chloride (200 g), conc. hydrochloric acid (50 ml) and water (500 ml) under stirring. The precipitated crystals were collected by filtration, washed with hydrochloric acid, and further washed thoroughly in water. Then, the crystals were dried at 60°-80° C. and dissolved in dimethylformamide (700 ml) with heating. The solution was filtered on heating, concentrated to 500 ml, and allowed to stand with the addition of dioxane (300 ml). The precipitated crystals were collected by filtration, washed with dioxane, then with n-hexane, and dried to obtain 5,6-dihydro-2-cyano-6,11-dioxodibenz[b,e]azepine (75 g).

reactant | 5,6-dihydro-2-bromo-6,11-dioxodibenz[b,e]azepine | 151 g | BrC1=CC2=C(NC(C3=C(C2=O)C=CC=C3)=O)C=C1 | C14H8BrNO2
reactant | dimethylformamide | 1.1 liters | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 5,6-dihydro-2-cyano-6,11-dioxodibenz[b,e]azepine | 75 g | C(#N)C1=CC2=C(NC(C3=C(C2=O)C=CC=C3)=O)C=C1 | C15H8N2O2
